US09227985B2
N-Bromosuccinimide (200 mg, 1 mmol) was added to a mixture of 2-(1-ethoxyvinyl)-5-fluoropyridine (200 mg, 1 mmol) in THF (6 mL) and water (2 mL). The reaction mixture was stirred at room temperature for 15 min., diluted with EtOAc and washed with brine. The combined organic layer was dried with MgSO4, filtered and concentrated to give 2-bromo-1-(5-fluoropyridin-2-yl)ethanone as a clear oil, which was used in the next step.

reactant | N-Bromosuccinimide | 1 mmol, 200 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(1-ethoxyvinyl)-5-fluoropyridine | 1 mmol, 200 mg | C(C)OC(=C)C1=NC=C(C=C1)F | C9H10FNO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-bromo-1-(5-fluoropyridin-2-yl)ethanone | BrCC(=O)C1=NC=C(C=C1)F | C7H5BrFNO
